US07608563B2
In chloroform (12 mL) was dissolved 304 mg (2.05 mmol) of 2-methoxy-1-methyl-3-vinylbenzene, 5 mL (63 mmol) of 50% aqueous sodium hydroxide solution was added dropwise to the solution, then, 59.9 mg (0.263 mmol) of benzyl-(triethyl)ammonium chloride was added to the mixture, and the resulting mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and extracted with chloroform. The organic layer was successively washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was distilled off and the obtained residue was purified by preparative thin-layer chromatography (available from MERCK CO., 1.05744, 3 plates were used, developed by hexane:ethyl acetate=4:1) to obtain 390 mg (1.69 mmol, Yield: 82.4%) of 1-(2,2-dichlorocyclopropyl)-2-methoxy-3-methylbenzene.

reactant | 2-methoxy-1-methyl-3-vinylbenzene | 2.05 mmol, 304 mg | COC1=C(C=CC=C1C=C)C | C10H12O
reactant | sodium hydroxide | 63 mmol, 5 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | chloroform | 12 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | benzyl-(triethyl)ammonium chloride | 0.263 mmol, 59.9 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-(2,2-dichlorocyclopropyl)-2-methoxy-3-methylbenzene | 1.69 mmol, 390 mg, Yield: 82.4% | ClC1(C(C1)C1=C(C(=CC=C1)C)OC)Cl | C11H12Cl2O
